US07538231B2
ethyl 3-ethyl-5-formyl-4-methyl-1H-pyrrole-2carboxylate
To a solution of ethyl 3-ethyl-4,5-dimethyl-1H-pyrrole-2-carboxylate (Salor-Aldrich) (0.0147 g, 0.077 mmol) in acetic acid (5 mL), THF (4 mL) and water (4 mL) was added ceric ammonium nitrate (0.169 g, 0.31 mmol) and the reaction was stirred at ambient temperature. After 1.5 h, the reaction was poured into water (10 mL) and extracted with CH2Cl2 (3×5 mL). The combined organic layers were washed with saturated NaHCO3, dried over Na2SO4, filtered, and concentrated. The resultant residue was purified by normal phase chromatography. Proton NMR for the product was consistent with the title compound. 1H NMR (500 MHz, CDCl3) δ 9.78 (s, 1H); 4.36 (q, J=7.1 Hz, 2H); 2.76 (q, J=7.6 Hz, 2H); 1.62 (s, 3H); 1.38 (t, J=7.1 Hz, 3H); 1.13 (t, J=7.6 Hz, 3H). HRMS (ES) exact mass calculated for C11H16NO3 (M+H+): 209.1052. Found 209.1050.

reactant | ethyl 3-ethyl-4,5-dimethyl-1H-pyrrole-2-carboxylate | 0.077 mmol, 0.0147 g | C(C)C1=C(NC(=C1C)C)C(=O)OCC | C11H17NO2
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | ethyl 3-ethyl-5-formyl-4-methyl-1H-pyrrole-2carboxylate | C(C)C1=C(NC(=C1C)C=O)C(=O)OCC | C11H15NO3
